US08138187B2
N,N-Dimethyl-1-phenyl-4-(3-(pyridin-2-ylmethyl)-1H-indol-2-yl)cyclohexanamine, polar diastereomer
(±)-Dimethyl-[1-phenyl-4-(3-pyridin-2-ylmethyl-1H-indol-2-yl)cyclohex-3-enyl]amine Trifluoromethanesulfonic acid (3.95 g, 2.30 ml, 26 mmol) was added to a solution of Ind-49 (2.17 g 10.4 mmol) and Ket-10 (2.70 g, 12.5 mmol) in anhydrous methylene chloride (80 ml), while cooling with ice. The reaction mixture was stirred at room temperature for 2 d and 0.5 M sodium hydroxide solution (50 ml) was then added and the mixture was stirred at room temperature for 2 h. The phases were separated, the aqueous phase was extracted with methylene chloride (3×30 ml) and the combined organic phases were dried with sodium sulfate and concentrated i. vac. The crude product (6.45 g) was purified by flash chromatography (400 g, 20×7.6 cm) with chloroform/methanol (9:1).

reactant | (±)-Dimethyl-[1-phenyl-4-(3-pyridin-2-ylmethyl-1H-indol-2-yl)cyclohex-3-enyl]amine Trifluoromethanesulfonic acid | 26 mmol, 2.30 ml, 3.95 g | FC(S(=O)(=O)O)(F)F.CN(C1(CC=C(CC1)C=1NC2=CC=CC=C2C1CC1=NC=CC=C1)C1=CC=CC=C1)C
reactant | sodium hydroxide | 0.5 M, 50 ml | [OH-].[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-1-phenyl-4-(3-(pyridin-2-ylmethyl)-1H-indol-2-yl)cyclohexanamine | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CC1=NC=CC=C1)C1=CC=CC=C1)C | C28H31N3
